US08106221B2
Step 1. tert-butyl 3-(3-chlorophenyl)-2-methyl-3-oxopropyl(methyl)carbamate
To NaH (680 mg, 1.7 mmol) in THF (10 mL) was added tert-butyl 3-(3-chlorophenyl)-3-oxopropyl(methyl)carbamate (2.4 g, 8.5 mmol) in THF (5 mL) at 0° C. over 3 min. After a few minutes THF (100 mL) was added. And an additional 10 min, CH3I (1.32 g, 9.3 mmol) was added drop wise. The mixture was stirred for 16 h at room temperature. Then the mixture was quenched with NH4Cl and 1N HCl was added until pH=4 was reached. The mixture was extracted with ethyl acetate. The organic layers was dried over Na2SO4, filtered, and concentrated in vacuo. The residue was purified by chromatography to give the product (2.0 g, 79%).

reactant | NaH | 1.7 mmol, 680 mg | [H-].[Na+]
reactant | tert-butyl 3-(3-chlorophenyl)-3-oxopropyl(methyl)carbamate | 8.5 mmol, 2.4 g | ClC=1C=C(C=CC1)C(CCN(C(OC(C)(C)C)=O)C)=O | C15H20ClNO3
reactant | CH3I | 9.3 mmol, 1.32 g | CI | CH3I
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | tert-butyl 3-(3-chlorophenyl)-2-methyl-3-oxopropyl(methyl)carbamate | 2.0 g, 79% | ClC=1C=C(C=CC1)C(C(CN(C(OC(C)(C)C)=O)C)C)=O | C16H22ClNO3
